US04460777
A solution of 1-(4-cyanobenzyl)-3-methyl-2-(3-pyridyl)-indole (5.8 g) in 100 ml of a 1:1 mixture of 20% aqueous hydrochloric acid and glacial acetic acid was heated at reflux for 20 hours. After cooling, the solution was poured into ice water (100 ml) and the pH was adjusted to 4.5-5 with saturated sodium bicarbonate solution. The resulting precipitate was extracted with ethyl acetate, the ethyl acetate extract was washed with water and evaporated to dryness to give 1-(4-carboxybenzyl)-3-methyl-2-(3-pyridyl)indole, m.p. 273°-5°.

reactant | 1-(4-cyanobenzyl)-3-methyl-2-(3-pyridyl)-indole | 5.8 g | C(#N)C1=CC=C(CN2C(=C(C3=CC=CC=C23)C)C=2C=NC=CC2)C=C1 | C22H17N3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(4-carboxybenzyl)-3-methyl-2-(3-pyridyl)indole | C(=O)(O)C1=CC=C(CN2C(=C(C3=CC=CC=C23)C)C=2C=NC=CC2)C=C1 | C22H18N2O2
